US06717016B2
Synthesis of (+)-1-(2-bis(3,5-di-tert-butyl-4-methoxyphenyl)phosphinophenyl)-2-isopropyl-2,3-dihydro-1H-phosphindol ((+)-DTBM-iPr-BeePHOS)
Under a nitrogen atmosphere, 1.0 g (1.72 mmol) of 2-(bis(3,5-di(tert-butyl)-4-methoxyphenyl)phosphino)phenylphosphine was added to 30 ml of THF, followed by cooling with an ice bath. Then, a 1.6M solution of 1.1 ml (1.72 mmol) of n-butyllithium in hexane was added dropwise thereto and, after dropping, the mixture was stirred for 1 hr, a solution of 448 mg (1.72 mmol) of MESYLATE in 10 ml of THF was added dropwise thereto, stirred for 1 hr and, after removing the ice bath, the mixture was stirred for 1 hr at room temperature. Following recooling with an ice bath, a 1.6M solution of 1.6 ml (2.58 mmol) of n-butyllithium in hexane was added dropwise thereto, after dropping, the ice bath was removed and the mixture was stirred overnight at room temperature. 1 ml of water was added to the reaction mixture to quench the reaction and the solvent was distilled off. 10 ml of water was added to the residue and extracted 3 times each with 20 ml of Et2O, and the combined organic layer was washed with 10 ml of water, the solvent was distilled off and the residue was purified by silica gel column chromatography to obtain 337 mg of the title compound. (Yield: 27%)

reactant | 2-(bis(3,5-di(tert-butyl)-4-methoxyphenyl)phosphino)phenylphosphine | 1.72 mmol, 1.0 g | C(C)(C)(C)C=1C=C(C=C(C1OC)C(C)(C)C)P(C1=C(C=CC=C1)P)C1=CC(=C(C(=C1)C(C)(C)C)OC)C(C)(C)C | C36H52O2P2
reactant | n-butyllithium | 1.72 mmol, 1.1 ml | C(CCC)[Li]
reactant | MESYLATE | 1.72 mmol, 448 mg | S(C)(=O)(=O)[O-]
reactant | n-butyllithium | 2.58 mmol, 1.6 ml | C(CCC)[Li]
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (+)-1-(2-bis(3,5-di-tert-butyl-4-methoxyphenyl)phosphinophenyl)-2-isopropyl-2,3-dihydro-1H-phosphindol | 337 mg, Yield: 27% | C(C)(C)(C)C=1C=C(C=C(C1OC)C(C)(C)C)P(C1=C(C=CC=C1)P1C(CC2=CC=CC=C12)C(C)C)C1=CC(=C(C(=C1)C(C)(C)C)OC)C(C)(C)C | C47H64O2P2
